US07534797B2
cis-3-Hydroxycyclobutanecarboxylic acid methyl ester
A methanolic solution (210 mL) of 3-oxocyclobutanecarboxylic acid, cooled in an ice bath, was charged portionwise with sodium borohydride (4.66 g, 123 mmol). After stirring for 2 h, the reaction was deemed complete by TLC analysis (10% MeOH/CH2Cl2, KMnO4 stain). The reaction was charged with 2N HCl in ether until the pH of the solution became acidic (pH=2). The reaction mixture was diluted with 400 mL of methanol and heated to 75° C. for 16 h. The reaction was concentrated in vacuo, resuspended in CH2Cl2 (100 mL), washed with water (2×50 mL), saturated bicarbonate (1×50 mL), water (1×50 mL), and brine (1×50 mL), then dried over Na2SO4, filtered and concentrated to afford the desired product as an oil (predominantly cis). IR (film) 3406, 2989, 2949, 1727, 1720 cm−1. 1H NMR (400 MHz, CDCl3) δ 1.97 (d, 1H, J=7.2 Hz), 2.13-2.21 (m, 2H), 2.56-2.64 (m, 3H), 3.67-3.70 (m, 3H), 4.17-4.20 (m, 1H).

reactant | 3-oxocyclobutanecarboxylic acid | 210 mL | O=C1CC(C1)C(=O)O | C5H6O3
reactant | sodium borohydride | 123 mmol, 4.66 g | [BH4-].[Na+]
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
reactant | HCl | 2N | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | methanol | 400 mL | CO | CH4O
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | cis-3-Hydroxycyclobutanecarboxylic acid methyl ester | COC(=O)[C@@H]1C[C@@H](C1)O | C6H10O3
